US03963706
a. 2-Chloro-N-(2-fluoro-4-sulphamoylphenyl)-acetamide
2-Fluoro-4-sulphamoyl-aniline (7.6g) and α-chloroacetyl chloride (12.0g) were refluxed together for 60 min. The reaction product was ground in a mortar with ice/water and filtered (8.3g). Recrystallisation from ethyl acetate to give beige needles m.p. 185°-187°

reactant | 2-Fluoro-4-sulphamoyl-aniline | 7.6g | FC1=C(N)C=CC(=C1)S(N)(=O)=O | C6H7FN2O2S
reactant | α-chloroacetyl chloride | 12.0g | ClCC(=O)Cl | C2H2Cl2O
product | 2-Chloro-N-(2-fluoro-4-sulphamoylphenyl)-acetamide | ClCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)F | C8H8ClFN2O3S
